US07041668B2
6 g of 3,4-diaminophenol were combined with 9.8 g of 1,3-bis(methoxycarbonyl)-2-methyl-2-thiopseudourea in 50 ml methanol and 30 ml acetic acid. The reaction mixture was refluxed for 4 hours. Solvents were then evaporated under reduce pressure yielding 10.8 g crude (5-hydroxy-1H-benzoimidazol-2-yl)-carbamic acid methyl ester. The residue was subjected to flash chromatography eluting with a mixture of dichloromethane-methanol (9:1; v/v) to give 5.6 g of a beige solid. Mass spectrum: 208 [M+H]+, retention time=0.56 minute.

reactant | 3,4-diaminophenol | 6 g | NC=1C=C(C=CC1N)O | C6H8N2O
reactant | 1,3-bis(methoxycarbonyl)-2-methyl-2-thiopseudourea | 9.8 g | COC(=O)NC(SC)=NC(=O)OC | C6H10N2O4S
solvent | methanol | 50 ml | CO | CH4O
solvent | acetic acid | 30 ml | C(C)(=O)O | C2H4O2
product | (5-hydroxy-1H-benzoimidazol-2-yl)-carbamic acid methyl ester | 10.8 g | COC(NC1=NC2=C(N1)C=CC(=C2)O)=O | C9H9N3O3
